US08017617B2
(R)-Cyclopentylhydroxyphenylacetic Acid (R)-pyrrolidin-3-yl Ester-HCl
(R)-3-((R)-2-Cyclopentyl-2-hydroxy-2-phenylacetoxy)pyrrolidine-1-carboxylic acid t-butyl ester (50 g) was dissolved in 150 ml of 1,4-dioxane. The solution was cooled to 0° C., then 75 ml of 4N HCl in 1,4-dioxane was slowly added. The mixture was stirred overnight at room temperature. The solution was concentrated to 100 ml, followed by the addition of 200 ml EtOAc. The solution was heated at 50° C. for 15 minutes, and allowed to cool to room temperature and stand for 72 hours. The white solid precipitate was isolated by filtration, and the isolated solid added to 100 ml EtOAc, stirred for half hour then filtered again to yield the title compound as a white solid (13 g).

reactant | (R)-3-((R)-2-Cyclopentyl-2-hydroxy-2-phenylacetoxy)pyrrolidine-1-carboxylic acid t-butyl ester | 50 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC([C@@](C1=CC=CC=C1)(O)C1CCCC1)=O | C22H31NO5
reactant | HCl | 4N, 75 ml | Cl | ClH
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | (R)-Cyclopentylhydroxyphenylacetic Acid (R)-pyrrolidin-3-yl Ester-HCl | 13 g | Cl.N1C[C@@H](CC1)OC([C@@](C1=CC=CC=C1)(O)C1CCCC1)=O | InChI=1S/C17H23NO3.ClH/c19-16(21-15-10-11-18-12-15)17(20,14-8-4-5-9-14)13-6-2-1-3-7-13;/h1-3,6-7,14-15,18,20H,4-5,8-12H2;1H/t15-,17+;/m1./s1
